US07585885B2
(R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester
Cool to 0° C. a solution of (2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (0.01 gr, 0.022 mmol) in dichloromethane (0.5 mL). Add trichloroisocyanuric acid (0.023 g, 0.110 mmol). Stir 5 minutes and then add TEMPO (2,2,6,6-tetramethyl-1-piperidinyl-oxy, free radical, 0.0007 g, 0.0044 mmol). After one hour add dichloromethane to the mixture and wash with saturated aqueous sodium bicarbonate followed by saturated aqueous sodium chloride. Dry over magnesium sulfate and concentrate under reduced pressure to provide the desired compound (0.010 g, 95%).

reactant | (2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.022 mmol, 0.01 gr | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C23H32F2N2O5
reactant | trichloroisocyanuric acid | 0.110 mmol, 0.023 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | TEMPO | 0.0044 mmol, 0.0007 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.010 g, 95% | C(C)(C)(C)OC(=O)N1[C@H](CC(C1)=O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C23H30F2N2O5
